US04152441
C. Preparation of α-(p-chlorophenyl)-α-phenylimidazole-2-methanol.
About 17 g. (0.042 mol) of 1-[(benzyloxy)methyl]-α-(p-chlorophenyl)-α-phenylimidazole-2-methanol was boiled under reflux in a mixture of 85 ml. of glacial acetic acid, 8.5 ml. of water and 8.5 ml. of concentrated hydrochloric acid solution. Acetic acid was removed by evaporation and the base was liberated by addition of 2 N sodium hydroxide solution. It was crystallised from isopropyl alcohol. Melting point of the product was 162°-165° C.

reactant | 1-[(benzyloxy)methyl]-α-(p-chlorophenyl)-α-phenylimidazole-2-methanol | 0.042 mol | C(C1=CC=CC=C1)OCN1C(=NC=C1)C(O)(C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C24H21ClN2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | α-(p-chlorophenyl)-α-phenylimidazole-2-methanol | ClC1=CC=C(C=C1)C(O)(C=1NC=CN1)C1=CC=CC=C1 | C16H13ClN2O
